US04400509
41.7 g (0.20 mole) of hexamethyldisilazane were added dropwise in 5 minutes to a mixture of 13.80 g (0.10 mole) of salicylic acid and 50 mg (0.10 mmole) of di-4-nitrophenyl N-(4-toluenesulfonyl)-phosphoramidate heated to 130° C. and the ammonia evolved was led into water by a dry stream of nitrogen which was passed over the reaction mixture. It was established by titration with 1 N sulfuric acid that the calculated amount of ammonia had been evolved within 45 minutes. Fractionation under reduced pressure yielded 27.86 g (98.8%) of trimethylsilyl 2-trimethylsilyloxybenzoate with a boiling point at 104°-105° C. at 1.5 mm Hg and nD 25=1.4746.

reactant | hexamethyldisilazane | 0.20 mole, 41.7 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | salicylic acid | 0.10 mole, 13.80 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | ammonia | N | H3N
reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | trimethylsilyl 2-trimethylsilyloxybenzoate | 27.86 g, 98.8% | C[Si](OC1=C(C(=O)O[Si](C)(C)C)C=CC=C1)(C)C | C13H22O3Si2
